US04663328
By following the procedure indicated in step (d) of Preparation II and replacing the N-isopropyl-3-hydroxy-3-phenylpiperidine hydrochloride with the N-tert.-butyl-3-hydroxy-3-phenylpiperidine hydrochloride, the N-tert.-butyl-3-phenyl-1,2,5,6-tetrahydropyridine hydrochloride was obtained.

reactant | N-isopropyl-3-hydroxy-3-phenylpiperidine hydrochloride | Cl.C(C)(C)N1CC(CCC1)(C1=CC=CC=C1)O
reactant | N-tert.-butyl-3-hydroxy-3-phenylpiperidine hydrochloride | Cl.C(C)(C)(C)N1CC(CCC1)(C1=CC=CC=C1)O
product | N-tert.-butyl-3-phenyl-1,2,5,6-tetrahydropyridine hydrochloride | Cl.C(C)(C)(C)N1CC(=CCC1)C1=CC=CC=C1 | InChI=1S/C15H21N.ClH/c1-15(2,3)16-11-7-10-14(12-16)13-8-5-4-6-9-13;/h4-6,8-10H,7,11-12H2,1-3H3;1H
